US07750017B2
Step 6 Preparation of 7-bromo-4-chloro[1]benzothieno[2,3-d]pyrimidine
7-Bromo[1]benzothieno[2,3-d]pyrimidin-4(3H)-one (7.80 g, 27.7 mmol), POCl3 (70 mL) and triethylamine (70 mL) were heated in an oil bath at 80° C. for 3 h. The resulting slurry was concentrated on a rotavap, slurried in dichloromethane and poured into 500 mL of satd NaHCO3. The organic phase was then washed with satd NaHCO3, water, and then collected. The initial aqueous phase (pH<1) was basified with 1.0 N NaOH and extracted with dichloromethane. The organic layers were combined, dried with sodium sulfate, filtered, and concentrated under high vacuum to yield a crude brown solid (7.6 g, 91%). 1H NMR (DMSO-d6) δ 9.05 (s, 1H), 8.60 (d, 1H), 8.60 (s, 1H), 7.88 (d, 1H).

reactant | 7-Bromo[1]benzothieno[2,3-d]pyrimidin-4(3H)-one | 27.7 mmol, 7.80 g | BrC1=CC2=C(C=C1)C1=C(N=CNC1=O)S2 | C10H5BrN2OS
reactant | POCl3 | 70 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | triethylamine | 70 mL | C(C)N(CC)CC | C6H15N
product | 7-bromo-4-chloro[1]benzothieno[2,3-d]pyrimidine | 7.6 g, 91% | BrC1=CC2=C(C=C1)C1=C(N=CN=C1Cl)S2 | C10H4BrClN2S
